US07625932B2
At room temperature, to a stirred mixture of 5-(4-bromophenyl)-1H-tetrazole (2.15 g, 9.55 mmol) in CH3CN, add 4-methoxybenzyl chloride (1.42 mL, 10.50 mmol) followed by Et3N (1.46 mL, 10.50 mmol) and stir over night. Concentrate the mixture to half the volume and add water (100 mL). Filter the white precipitate and wash with water (100 mL). Dry the material to give 5-(4-bromophenyl)-1-(4-methoxybenzyl)-1H-tetrazole as white flocculent crystals (1.37 g).

reactant | 5-(4-bromophenyl)-1H-tetrazole | 9.55 mmol, 2.15 g | BrC1=CC=C(C=C1)C1=NN=NN1 | C7H5BrN4
reactant | 4-methoxybenzyl chloride | 10.50 mmol, 1.42 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | Et3N | 10.50 mmol, 1.46 mL | CCN(CC)CC | C6H15N
solvent | CH3CN | CC#N | C2H3N
product | 5-(4-bromophenyl)-1-(4-methoxybenzyl)-1H-tetrazole | BrC1=CC=C(C=C1)C1=NN=NN1CC1=CC=C(C=C1)OC | C15H13BrN4O
